US07968581B2
Step 2: (S)-1-(3,4-Dichlorophenyl)-4-hydroxymethyl-3-methyl-4-phenylimidazolidine-2,5-dione
150 mg of (S)-1-(3,4-Dichlorophenyl)-4-hydroxymethyl-4-phenylimidazolidine-2,5-dione are dissolved in 5 mL of dimethylformamide then 165 mg of potassium carbonate are added followed by 137 μL of dimethylsulfate. The mixture is stirred overnight at room temperature then it is taken in a mixture of water and ethyl acetate. The aqueous phase is extracted with ethyl acetate. The extracts are washed with brine, dried over magnesium sulfate and evaporated to dryness. The residue is purified over silica gel while eluting with a gradient mixture from heptane to pure ethyl acetate to provide the expected product.

reactant | (S)-1-(3,4-Dichlorophenyl)-4-hydroxymethyl-4-phenylimidazolidine-2,5-dione | 150 mg | ClC=1C=C(C=CC1Cl)N1C(N[C@@](C1=O)(C1=CC=CC=C1)CO)=O | C16H12Cl2N2O3
reactant | potassium carbonate | 165 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfate | 137 μL | COS(=O)(=O)OC | C2H6O4S
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-1-(3,4-Dichlorophenyl)-4-hydroxymethyl-3-methyl-4-phenylimidazolidine-2,5-dione | ClC=1C=C(C=CC1Cl)N1C(N([C@@](C1=O)(C1=CC=CC=C1)CO)C)=O | C17H14Cl2N2O3
